US05151213
A solution of 0.2 g of CuCl and 0.5 g of hydroxylammonium hydrochloride in 16 ml of 50% aqueous ethylamine is added to a solution of 0.1 m of 4-fluorophenylacetylene in 100 ml of methanol. 0.1 m of p-n-pentylphenylbromoethyne dissolved in methanol is added dropwise under a nitrogen atmosphere and with stirring, the mixture is stirred for one hour, diluted with water and extracted with ether, and the extracts are washed until neutral. Customary work-up gives 1-p-n-pentylphenyl-4-p-fluorophenylbutadiyne.

reactant | hydroxylammonium hydrochloride | 0.5 g | Cl.O[NH3+]
reactant | 4-fluorophenylacetylene | FC1=CC=C(C=C1)C#C | C8H5F
reactant | p-n-pentylphenylbromoethyne | C(CCCC)C1=CC=C(C=C1)C#CBr | C13H15Br
solvent | ethylamine | 16 ml | C(C)N | C2H7N
solvent | methanol | 100 ml | CO | CH4O
solvent | water | O | H2O
catalyst | CuCl | 0.2 g | Cl[Cu]
product | 1-p-n-pentylphenyl-4-p-fluorophenylbutadiyne | C(CCCC)C1=CC=C(C=C1)C#CC#CC1=CC=C(C=C1)F | C21H19F
